US04990515
A suspension of 2 g of 7,8-difluoro-1-methoxy-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid in 2.8 g of piperazine and 40 cm3 of dimethyl sulphoxide is stirred for 15 minutes at a temperature close to 40° C. After cooling to about 20° C., the reaction mixture is poured into 150 cm3 of water and 27.75 cm3 of 2N methanesulphonic acid are added. A very small amount of insoluble matter is removed by filtration through diatomaceous silica. 15 cm3 of 2N aqueous potassium hydroxide solution are added to the solution obtained. The precipitate formed is drained, washed with 3 times 15 cm3 of water and taken up in 100 cm3 of dimethylformamide and the mixture is heated, with stirring, for 10 minutes at a temperature close to 150° C. The suspension is cooled to about 100° C.; the insoluble matter is drained and taken up in 100 cm3 of ethanol and the mixture is heated at a temperature close to 75° C. for 1 hour. The insoluble matter is drained at about 50° C. and washed with 40 cm3 of the same solvent at the same temperature as above. 1.8 g of 7-fluoro-1-methoxy-4-oxo-8-(1-piperazinyl)-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid are obtained in the form of a brown solid melting at 298°-300° C., solvated by 2.4% of water.

reactant | 7,8-difluoro-1-methoxy-4-oxo-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 2 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)OC)C=C1F | C14H8F2N2O4
reactant | water | 150 cm3 | O | H2O
reactant | methanesulphonic acid | 2N, 27.75 cm3 | CS(=O)(=O)O | CH4O3S
reactant | piperazine | 2.8 g | N1CCNCC1 | C4H10N2
solvent | dimethyl sulphoxide | 40 cm3 | CS(=O)C | C2H6OS
product | 7-fluoro-1-methoxy-4-oxo-8-(1-piperazinyl)-1,4-dihydro-benzo[b][1,8]naphthyridine-3-carboxylic acid | 1.8 g | FC1=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)O)OC)C=C1N1CCNCC1 | C18H17FN4O4
